US07790756B2
A solution of sodium nitrite (502 mg, 7.27 mmol) in H2O (8 ml) was added dropwise to a well-stirred 0° C. mixture of 2-methylquinolin-6-amine (1.00 g, 6.32 mmol) in conc. HCl (10 ml). The resulting mixture was stirred at 0° C. for 1 h. Tin(II) chloride dihydrate (6.13 g, 27.2 mmol) in conc. HCl (8 ml) was added and stirring was continued at 0° C. for 1 h and then RT for 2 h. Ethanol (60 ml) and 4,4-dimethyl-3-oxopentanenitrile (1.03 g, 8.22 mmol) were added and the mixture was heated at reflux overnight. The completed reaction mixture was concentrated in vacuo and diluted with ethyl acetate (100 mL). The mixture was cooled in an ice/water bath and made basic (pH˜8) with solid sodium hydroxide. The solution was filtered through Celite, and the filter cake was washed with water (50 mL) and ethyl acetate (100 mL). The organic phase was separated, washed with brine, dried (Na2SO4), and concentrated to yield a foam. The foam was stirred in ether (50 mL) and allowed to stand for several hours. The resultant solid was collected by filtration and dried in vacuo to yield 3-tert-butyl-1-(2-methylquinolin-6-yl)-1H-pyrazol-5-amine (428 mg, 24% yield). MS (ESI) m/z: 281.2 (M+H+).

reactant | sodium nitrite | 7.27 mmol, 502 mg | N(=O)[O-].[Na+]
reactant | 2-methylquinolin-6-amine | 6.32 mmol, 1.00 g | CC1=NC2=CC=C(C=C2C=C1)N | C10H10N2
reactant | Tin(II) chloride dihydrate | 27.2 mmol, 6.13 g | O.O.[Sn](Cl)Cl
reactant | 4,4-dimethyl-3-oxopentanenitrile | 8.22 mmol, 1.03 g | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | H2O | 8 ml | O | H2O
solvent | HCl | 10 ml | Cl | ClH
solvent | HCl | 8 ml | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | Ethanol | 60 ml | C(C)O | C2H6O
product | 3-tert-butyl-1-(2-methylquinolin-6-yl)-1H-pyrazol-5-amine | 428 mg, 24% yield | C(C)(C)(C)C1=NN(C(=C1)N)C=1C=C2C=CC(=NC2=CC1)C | C17H20N4
